US08207167B2
tert-Butyl 1-(3-(4-bromophenylsulfonamido)phenyl)-2-(tert-butyldimethylsilyloxy)ethyl(2-methoxyethyl)carbamate (ABD858b)
A suspension of tert-butyl 1-(3-aminophenyl)-2-(tert-butyldimethylsilyloxy)ethyl(2-methoxyethyl)carbamate (0.5 g, 1.95 mmol) and 4-bromobenzenesulfonyl chloride (0.99 g) in chloroform (20 mL) was stirred under nitrogen at room temperature. N,N-Diisopropyl ethyl amine (1 mL) was added and the mixture was stirred for 16 hours at 60° C. The solution was diluted with EtOAc (50 mL), washed with water (2×20 mL), 1 M HCl (20 mL) and brine (20 mL) and dried over Na2SO4. Evaporation of the solvents gave a brown oil which was purified by column chromatography (30% EtOAc in hexane) to give the title compound as a light yellow oil (0.3 g).

reactant | tert-butyl 1-(3-aminophenyl)-2-(tert-butyldimethylsilyloxy)ethyl(2-methoxyethyl)carbamate | 1.95 mmol, 0.5 g | NC=1C=C(C=CC1)C(CO[Si](C)(C)C(C)(C)C)N(C(OC(C)(C)C)=O)CCOC | C22H40N2O4Si
reactant | 4-bromobenzenesulfonyl chloride | 0.99 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | N,N-Diisopropyl ethyl amine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 1-(3-(4-bromophenylsulfonamido)phenyl)-2-(tert-butyldimethylsilyloxy)ethyl(2-methoxyethyl)carbamate | 0.3 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C=CC1)C(CO[Si](C)(C)C(C)(C)C)N(C(OC(C)(C)C)=O)CCOC | C28H43BrN2O6SSi
